US05668143
5,7-Dichloro-4-[benzenesulfonylimino]-1,4-dihydroquinoline-2-carboxylic acid, ethyl ester
Combine 5,7-dichloro-quinolin-4-one-2-carboxylic acid, ethyl ester (0.59 g, 2.1 mmol) and benzenesulfonyl isocyanate (0.56 mL, 4.2 mmol) in acetonitrile (10 mL). Heat to reflux under an inert atmosphere. After 16 hours, quench with methanol (5 mL). Evaporate in vacuo. Chromatograph on silica gel eluting with 2% acetone/dichloromethane. Recrystallize from acetonitrile to give the title compound as a solid: TLC Rf =0.31 (silica gel, 2% acetone/dichloromethane); mp; 184°-185° C. Elem. Anal. calculated for C18H14Cl2N2O4S: C, 50.83; H, 3.32; N, 6.59. Found: C, 51.04; H, 3.33; N, 6.56.

reactant | 5,7-dichloro-quinolin-4-one-2-carboxylic acid | ClC1=C2C(CC(=NC2=CC(=C1)Cl)C(=O)O)=O | C10H5Cl2NO3
reactant | benzenesulfonyl isocyanate | 4.2 mmol, 0.56 mL | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 5,7-Dichloro-4-[benzenesulfonylimino]-1,4-dihydroquinoline-2-carboxylic acid, ethyl ester | ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(=O)OCC)=NS(=O)(=O)C1=CC=CC=C1 | C18H14Cl2N2O4S
